US08445489B2
6-(4-Hydroxyphenyl)-2H-pyridazin-3-one
50 g of 4-hydroxyacetophenone are converted into the pyridazinone in accordance with GWP 1.

reactant | 4-hydroxyacetophenone | 50 g | CC(=O)C=1C=CC(=CC1)O | C8H8O2
reactant | pyridazinone | N=1NC(C=CC1)=O | C4H4N2O
product | 6-(4-Hydroxyphenyl)-2H-pyridazin-3-one | OC1=CC=C(C=C1)C=1C=CC(NN1)=O | C10H8N2O2
